US06831106B1
f) {4-[4′-(1-Ethyl-1-hydroxypropyl)-2′-methylbiphenyl-3-ylsulphanylmethyl]-2-hydroxymethylphenyl}methanol
130 mg (0.3 mmol) of methyl 3′-(3,4-bis-hydroxymethyl-benzylsulphanyl)-2-methylbiphenyl-4-carboxylate are dissolved in 10 mL of anhydrous THF and 0.7 mL (2 mmol) of an ethylmagnesium bromide solution (3M) are then added. The reaction medium is stirred for 1 h and then treated with ammonium chloride solution. After extraction with ethyl acetate, the organic phases are combined, dried and concentrated under reduced pressure. The residue is purified by chromatography on a column of silica. A colourless oil is obtained (m=105 mg, Y=81%).

reactant | methyl 3′-(3,4-bis-hydroxymethyl-benzylsulphanyl)-2-methylbiphenyl-4-carboxylate | 0.3 mmol, 130 mg | OCC=1C=C(CSC=2C=C(C=CC2)C2=C(C=C(C=C2)C(=O)OC)C)C=CC1CO | C24H24O4S
reactant | ethylmagnesium bromide | 2 mmol, 3M, 0.7 mL | C(C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | {4-[4′-(1-Ethyl-1-hydroxypropyl)-2′-methylbiphenyl-3-ylsulphanylmethyl]-2-hydroxymethylphenyl}methanol | C(C)C(CC)(O)C1=CC(=C(C=C1)C1=CC(=CC=C1)SCC1=CC(=C(C=C1)CO)CO)C | C27H32O3S
